US06153768
Synthesis of (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-{4-[2-(4-(4,4,5,5,5-pentafluoropentyl)piperazino)ethyloxy]phenyl}thiochroman
Under argon atmosphere 4-(4,4,5,5,5-pentafluoropentyl)piperazine (70 mg, 0.4 mmol) was added to dimethylformamide solution (0.5 ml) of (3RS,4RS)-4-[4-(2-chloroethyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-thiochroman (69 mg, 0.13 mmol) and then stirred for 8 hours at 80° C. After adding water, the reaction solution was extracted with ethyl acetate. The extract was distilled under reduced pressure to remove the solvent and the crude product thus obtained was then purified using amino silica gel plate (ethyl acetate:hexane=1:2) to obtain 67 mg (yield: 77%) of the title compound.

reactant | 4-(4,4,5,5,5-pentafluoropentyl)piperazine | 0.4 mmol, 70 mg | FC(CCCN1CCNCC1)(C(F)(F)F)F | C9H15F5N2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | (3RS,4RS)-4-[4-(2-chloroethyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-thiochroman | 0.13 mmol, 69 mg | ClCCOC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C28H31ClO5S
solvent | water | O | H2O
product | (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-{4-[2-(4-(4,4,5,5,5-pentafluoropentyl)piperazino)ethyloxy]phenyl}thiochroman | 67 mg, yield: 77% | COCOC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCCN1CCN(CC1)CCCC(C(F)(F)F)(F)F | C37H45F5N2O5S
